US04657929
(a) 2,2,2-trifluoro-N-[2-[-4-methoxy-3-(methylamino)phenyl]ethyl]acetamide
N-[2-(3amino-4-methoxyphenyl]ethyl]-2,2,2-trifluoro acetamide (26.2 g., 0.1 mole) and iodomethane (14.0 g., 6.2 ml , 0.1 mole) in dry dimethylformamide (500 ml) were stirred under nitrogen for 3 hr. The solution was poured into water and the suspension extracted with ethyl acetate. Evaporation of the extracts afforded an oil which was separated by high pressure liquid chromatography on silica using 1% methanol in dichloromethane as eluant. Evaporation of the fractions containing the major bond afforded the sub-title compound (6.1 g) as a white solid mp 65°-67°. The hydrochloride, prepared in the usual way, had mp 153°-155°.

reactant | N-[2-(3amino-4-methoxyphenyl]ethyl]-2,2,2-trifluoro acetamide | 0.1 mole, 26.2 g | NC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C11H13F3N2O2
reactant | iodomethane | 0.1 mole, 6.2 ml, 14.0 g | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-N-[2-[-4-methoxy-3-(methylamino)phenyl]ethyl]acetamide | 6.1 g | FC(C(=O)NCCC1=CC(=C(C=C1)OC)NC)(F)F | C12H15F3N2O2
